US05236952
1.4 g of 1-(3,4-dimethoxy-5-nitrophenyl)-3,4-dihydroisoquinoline are treated with 15 ml of constant-boiling hydrobromic acid and heated to boiling under reflux under a nitrogen atmosphere for 1.5 hours. After distilling the hydrobromic acid in a water-jet vacuum, the crystalline residue is recrystallized from acetone. There is obtained 5-(3,4-dihydro-1-isoquinolinyl)-3-nitropyrocatechol hydrobromide in the form of yellow crystals of m.p. >250° (decomposition).

reactant | 1-(3,4-dimethoxy-5-nitrophenyl)-3,4-dihydroisoquinoline | 1.4 g | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NCCC2=CC=CC=C12 | C17H16N2O4
reactant | hydrobromic acid | 15 ml | Br | BrH
product | 5-(3,4-dihydro-1-isoquinolinyl)-3-nitropyrocatechol hydrobromide | Br.C1(=NCCC2=CC=CC=C12)C1=CC(=C(C(O)=C1)O)[N+](=O)[O-] | InChI=1S/C15H12N2O4.BrH/c18-13-8-10(7-12(15(13)19)17(20)21)14-11-4-2-1-3-9(11)5-6-16-14;/h1-4,7-8,18-19H,5-6H2;1H
